US04511569
Preparation of 5,6-Dihydrobenzo[f]quinolin-3(4H)-one-2-carboxamide
Heat 5.5 gm 2-cyano-5,6-dihydrobenzo[f]quinolin-3(4H)one in 50 ml of 90% sulfuric acid at 100° for 11/2 hours. Cool the reaction mixture, pour into ice water and basify the aqueous mixture with 50% sodium hydroxide to give a tan precipitate. Filter the mixture and recrystallize the solid (dimethylformamide:acetonitrile) to give the title compound.

reactant | 2-cyano-5,6-dihydrobenzo[f]quinolin-3(4H)one | 5.5 gm | C(#N)C=1C(NC=2CCC3=C(C2C1)C=CC=C3)=O | C14H10N2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 5,6-Dihydrobenzo[f]quinolin-3(4H)-one-2-carboxamide | C1=C(C(NC=2CCC3=C(C12)C=CC=C3)=O)C(=O)N | C14H12N2O2
